US08183271B2
E-{5-Fluoro-2-[2-(4-methoxyphenyl)vinyl]phenyl}methanol
1.73 g (45.60 mmol) of sodium borohydride are added in portions to a solution of 7.79 g (30.40 mmol) of E-5-fluoro-2-[2-(4-methoxyphenyl)vinyl]benzaldehyde in 500 ml of methanol at 0° C., and the mixture is stirred at room temperature for 2 hours. After reaction is complete, the mixture is concentrated to dryness and the residue is taken up in water and dichloromethane. The aqueous phase is extracted twice more with dichloromethane. The combined organic phases are dried over sodium sulfate, filtered and concentrated to dryness. The resulting residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1→1:1). 6.8 g (85% of theory) of a colorless solid are obtained.

reactant | sodium borohydride | 45.60 mmol, 1.73 g | [BH4-].[Na+]
reactant | E-5-fluoro-2-[2-(4-methoxyphenyl)vinyl]benzaldehyde | 30.40 mmol, 7.79 g | FC=1C=CC(=C(C=O)C1)\C=C\C1=CC=C(C=C1)OC | C16H13FO2
solvent | methanol | 500 ml | CO | CH4O
product | E-{5-Fluoro-2-[2-(4-methoxyphenyl)vinyl]phenyl}methanol | FC=1C=CC(=C(C1)CO)\C=C\C1=CC=C(C=C1)OC | C16H15FO2
